US05380735
Synthesis of 4-bromo-2-n-butylmercapto-6-methylbenzothiazole
To 10 ml of tetrahydrofuran solution containing 0.52 g of 4-bromo-2-mercapto-6-methylbenzothiazole was added 50 mg of sodium hydride at 0° C. After adding 0.28 g of n-bromobutane, the whole mixture was refluxed for 2 hours, distilled under reduced pressure to remove tetrahydrofuran and then extracted with ethyl acetate by adding water and ethyl acetate. The ethyl acetate layer was dried with anhydrous sodium sulfate and evaporated under reduced pressure to obtain the title compound in a yellow liquid state (Yield: 66%).

reactant | 4-bromo-2-mercapto-6-methylbenzothiazole | 0.52 g | BrC1=CC(=CC2=C1N=C(S2)S)C | C8H6BrNS2
reactant | sodium hydride | 50 mg | [H-].[Na+]
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 4-bromo-2-n-butylmercapto-6-methylbenzothiazole | Yield: 66% | BrC1=CC(=CC2=C1N=C(S2)SCCCC)C | C12H14BrNS2
